US08981084B2
2N HCl (3 mL) was added to N-(1-(5-cyanopyridin-2-yl)piperidin-4-yl)acetamide (300 mg, 1.22 mmol) and the reaction mixture was stirred at 100° C. for 5 h. The reaction mixture was cooled to room temperature and the pH of the aqueous layer was adjusted to 8-9 using 10% NaOH solution. The product was extracted with CH2Cl2 and the combined extracts were washed with water and brine, dried over anhydrous sodium sulfate, and concentrated under reduced pressure to afford 6-(4-aminopiperidin-1-yl)nicotinonitrile (210 mg, crude), which was carried through without further purification. 1H NMR (300 MHz, DMSO-d6) δ 8.43 (d, J=2.3 Hz, 1H), 7.79-7.75 (dd, J=9.1 Hz, 2.3 Hz, 1H), 6.90 (d, J=9.2 Hz, 1H), 4.28-4.23 (m, 2H), 3.07-2.98 (m, 2H), 2.87-2.78 (m, 1H), 1.75-1.71 (m, 2H), 1.19-1.07 (m, 2H). MS (ESI) m/z: Calculated for C11H14N4: 202.12. found: 203.2 (M+H)+

reactant | HCl | 2N, 3 mL | Cl | ClH
reactant | N-(1-(5-cyanopyridin-2-yl)piperidin-4-yl)acetamide | 1.22 mmol, 300 mg | C(#N)C=1C=CC(=NC1)N1CCC(CC1)NC(C)=O | C13H16N4O
reactant | NaOH | [OH-].[Na+]
product | 6-(4-aminopiperidin-1-yl)nicotinonitrile | 210 mg | NC1CCN(CC1)C1=NC=C(C#N)C=C1 | C11H14N4
